US05219689
6-Nitro-3-(p-nitrophenylmethylene)phthalide prepared by the process mentioned in "Nihon Kagaku Kaishi (Journal of Japan Chemical Society)", page 110 (1973) was reduced with iron powder by conventional method and the resulting crude product was crystallized from isopropanol to obtain 6-amino-3-(p-aminophenylmethylene)phthalide.

reactant | 6-Nitro-3-(p-nitrophenylmethylene)phthalide | [N+](=O)([O-])C1=CC=C2C(OC(=O)C2=C1)=CC1=CC=C(C=C1)[N+](=O)[O-] | C15H8N2O6
reactant | Kaishi | CCCCC[C@@H](C=C[C@H]1[C@@H](CC(=O)[C@@H]1CCCCCCC(=O)O)O)O | C20H34O5
catalyst | iron | [Fe] | Fe
product | 6-amino-3-(p-aminophenylmethylene)phthalide | NC1=CC=C2C(OC(=O)C2=C1)=CC1=CC=C(C=C1)N | C15H12N2O2
